US09079866B2
5-(3-fluoro-2-methoxy-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)pyrazin-2-amine
The title compound was prepared in a manner similar to that described for Example 850 using 5-(4-bromo-2-fluoro-3-methoxyphenyl)pyrazin-2-amine and 4-(trifluoromethyl)phenylboronic acid. MS (ESI): mass calcd. for C18H13F4N3O, 363.10; m/z found, 363.9 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.61-8.56 (m, 1H), 8.12 (d, J=1.5, 1H), 7.72-7.66 (m, 4H), 7.22 (dd, J=8.3, 1.4, 1H), 7.28-7.24 (m, 1H), 4.73 (s, 2H), 3.77 (d, J=1.2, 3H).

reactant | 5-(4-bromo-2-fluoro-3-methoxyphenyl)pyrazin-2-amine | BrC1=C(C(=C(C=C1)C=1N=CC(=NC1)N)F)OC | C11H9BrFN3O
reactant | 4-(trifluoromethyl)phenylboronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 5-(3-fluoro-2-methoxy-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)pyrazin-2-amine | FC=1C(=C(C=CC1C=1N=CC(=NC1)N)C1=CC=C(C=C1)C(F)(F)F)OC | C18H13F4N3O
